US07259160B2
A solution of benzyl (2R,6S)-hexahydro-2,6-dimethyl-3-oxo-1H-1,4-diazepine-1-carboxylate (220 mg, 0.8 mmol) in ethanol (10 mL) was stirred at room temperature overnight under a hydrogen balloon, using Pd/C (30 mg) as catalyst. The catalyst was filtered over Celite and washed with 10% methanol in dichloromethane. The solvent was removed to yield (3R,6R)-hexahydro-3,6-dimethyl-2H-1,4-diazepin-2-one as white crystalline solid. MS (M+1): 143.1

reactant | benzyl (2R,6S)-hexahydro-2,6-dimethyl-3-oxo-1H-1,4-diazepine-1-carboxylate | 0.8 mmol, 220 mg | C[C@H]1N(C[C@H](CNC1=O)C)C(=O)OCC1=CC=CC=C1 | C15H20N2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | (3R,6R)-hexahydro-3,6-dimethyl-2H-1,4-diazepin-2-one | C[C@@H]1C(NC[C@@H](CN1)C)=O | C7H14N2O
